US04010184
To a solution of 5.8 g of 5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine in 50 ml of pyridine is added 4.5 g of 3-morpholinopropylcarbamoyl chloride and stirred for 24 hours at 60° C. Then pyridine is evaporated under reduced pressure, and to the residue is added acetone to crystallize. The crude crystals obtained are recrystallized from ethanol to give 5-o-chlorophenyl-7-ethyl-1-(3-morpholinopropylcarbamoyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine dihydrochloride as yellow crystals, melting at 225°-238° C with decomposition.

reactant | 5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | 5.8 g | ClC1=C(C=CC=C1)C=1C2=C(NCCN1)SC(=C2)CC | C15H15ClN2S
reactant | 3-morpholinopropylcarbamoyl chloride | 4.5 g | O1CCN(CC1)CCCNC(=O)Cl | C8H15ClN2O2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-o-chlorophenyl-7-ethyl-1-(3-morpholinopropylcarbamoyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine dihydrochloride | Cl.Cl.ClC1=C(C=CC=C1)C=1C2=C(N(CCN1)C(NCCCN1CCOCC1)=O)SC(=C2)CC | InChI=1S/C23H29ClN4O2S.2ClH/c1-2-17-16-19-21(18-6-3-4-7-20(18)24)25-9-11-28(22(19)31-17)23(29)26-8-5-10-27-12-14-30-15-13-27;;/h3-4,6-7,16H,2,5,8-15H2,1H3,(H,26,29);2*1H
